US05472978
3,5-Dimethylbenzyl 2 -methanesulphonamido-3-(3-indolyl )propionate
Following the method of Example 18, 3,5-dimethylbenzyl 2-amino-3-(3-indolyl)propionate hydrochloride and methanesulphonylchloride gave the title compound which was recrystallised from ethyl acetate/petroleum ether, m.p. 96°-97° C. 1H NMR (360 MHz, CDCl3) δ8.18 (1H, s), 7.70 (1H, d, J=7 Hz), 7.48 (1H, d, J=7 Hz), 7.37 (1H, t, J=7 Hz), 7.28 (1H, t, J=7 Hz), 7.12 (1H, s), 7.08 (1H, s), 6.98 (2H, s), 5.04 (2H, s), 4.89 (1H, d, J=9.2 Hz), 4.50 (1H, m), 3.32 (2H, d, J=5.7 Hz), 2.72 (3H, s), 2.30 (6H, s). Found: C, 62.6; H, 5.9; N, 6.8. C21H24N2O4S requires C, 63.0; H, 6.0; N, 7.0.

reactant | 3,5-dimethylbenzyl 2-amino-3-(3-indolyl)propionate hydrochloride | Cl.NC(C(=O)OCC1=CC(=CC(=C1)C)C)CC1=CNC2=CC=CC=C12
reactant | methanesulphonylchloride | CS(=O)(=O)Cl | CH3ClO2S
product | 3,5-Dimethylbenzyl 2 -methanesulphonamido-3-(3-indolyl )propionate | CS(=O)(=O)NC(C(=O)OCC1=CC(=CC(=C1)C)C)CC1=CNC2=CC=CC=C12 | C21H24N2O4S
